US06281243B1
(S)-3-[(2,3-dihydro-5-methoxy-1H-inden-4-yl)oxy]-1-(phenylmethyl)-pyrrolidine
3-[(5,6,7,8-Tetrahydro-1-naphthalenyl)oxy]-1-(phenylmethyl)-pyrrolidine, M.S. (C.I.) (M/Z): 308 [M+H]+, starting from 5,6,7,8-tetrahydro-1-naphthol.

reactant | 3-[(5,6,7,8-Tetrahydro-1-naphthalenyl)oxy]-1-(phenylmethyl)-pyrrolidine | C1(=CC=CC=2CCCCC12)OC1CN(CC1)CC1=CC=CC=C1 | C21H25NO
reactant | 5,6,7,8-tetrahydro-1-naphthol | C1(=CC=CC=2CCCCC12)O | C10H12O
product | (S)-3-[(2,3-dihydro-5-methoxy-1H-inden-4-yl)oxy]-1-(phenylmethyl)-pyrrolidine | COC=1C(=C2CCCC2=CC1)O[C@@H]1CN(CC1)CC1=CC=CC=C1 | C21H25NO2
